US08877780B2
To a stirred mixture of 5-aminomethyl-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione hydrochloride (0.97 g, 3.00 mmol) and 3,4-dichlorobenzoyl chloride (0.69 g, 3.30 mmol) in THF (20 mL), was added DIPEA (1.05 mL, 6.00 mmol) at room temperature under nitrogen. The mixture was heated to 40° C. for 18 h then cooled to rt. The solvent was removed in vacuo and the residue was dissolved in EtOAc (100 mL). The organic layer was washed with dil. aq. HCl (2×150 mL), sat. NaHCO3 (2×150 mL), water (100 mL), dried (MgSO4) and then concentrated. The product was dried in vacuo to give 3,4-dichloro-N-[2-(2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-benzamide as a white solid (1.23 g, 89% yield): HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 40/60 CH3CN/0.1% H3PO4, 9.40 min (98.44%); mp: 253-255° C.; 1H NMR (DMSO-d6) δ 2.03-2.07 (m, 1H, CHH), 2.43-2.62 (m, 2H, CHH, CHH), 2.81-2.96 (m, 1H, CHH), 4.65 (d, J=5.7 Hz, 2H, CH2), 5.15 (dd, J=5.2, 12.5 Hz, 1H, CH), 7.77-7.92 (m, 5H, Ar), 8.14 (d, J=1.8 Hz, 1H, Ar), 9.40 (t, J=5.7 Hz, 1H, NH), 11.13 (s, 1H, NH); 13C NMR (DMSO-d6) δ 21.99, 30.93, 42.77, 49.01, 122.14, 123.57, 127.62, 129.27, 129.90, 130.81, 131.36, 131.62, 133.55, 134.23, 134.29, 147.07; Anal Calcd for C21H15N3O5Cl2: C, 54.80; H, 3.28; N, 9.13. Found: C, 54.76; H, 3.29; N, 8.87.

reactant | 5-aminomethyl-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione hydrochloride | 3.00 mmol, 0.97 g | Cl.NCC=1C=C2C(N(C(C2=CC1)=O)C1C(NC(CC1)=O)=O)=O
reactant | 3,4-dichlorobenzoyl chloride | 3.30 mmol, 0.69 g | ClC=1C=C(C(=O)Cl)C=CC1Cl | C7H3Cl3O
reactant | DIPEA | 6.00 mmol, 1.05 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3,4-dichloro-N-[2-(2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-benzamide | 1.23 g, 89% yield | ClC=1C=C(C(=O)NCC=2C=C3C(N(C(C3=CC2)=O)C2C(NC(CC2)=O)=O)=O)C=CC1Cl | C21H15Cl2N3O5
